US20010001666A1
adding in a container being heated while said container is partially submersed in a 80 degree C. bath, sodium behenoyl lactylate, safflower oil, sweet almond oil, apricot kernel oil, tocopheral linoleate, vitamin A, flaxseed oil, cetearyl alcohol, glycol stearate, cocoa butter and glycerin to form a mixture,

reactant | sodium behenoyl lactylate | CCCCCCCCCCCCCCCCCCCCCC(=O)OC(C)C(=O)OC(C)C(=O)[O-].[Na+]
reactant | linoleate | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)[O-]
solvent | glycerin | OCC(O)CO | C3H8O3
product | glycol stearate | CCCCCCCCCCCCCCCCCC(=O)OCCO | C20H40O3
